US08648066B2
To a solution of 30% hydrogen peroxide (12 mL) and water (23 mL) was slowly added 6-isopropyl-5-methyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one (1.0 g, 5.4 mmol). The reaction mixture was stirred at 70° C. for 3 h. After cooling to room temperature, saturated sodium carbonate was slowly added until the pH reached 10. To this mixture was slowly added a 1 M solution of sodium thiosulfate until residual peroxide was quenched, whereupon the aqueous solution was concentrated to dryness. The residue was suspended in chloroform (100 mL), filtered to remove inorganic salts and the filtrate concentrated to provide 6-isopropyl-5-methylpyrimidin-4-ol (0.25 g, 30% yield) as a white solid that was used without further purification. MS (EI) for C8H12N2O: 153 (MH+).

reactant | hydrogen peroxide | 12 mL | OO | H2O2
reactant | 6-isopropyl-5-methyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 5.4 mmol, 1.0 g | C(C)(C)C1=C(C(NC(N1)=S)=O)C | C8H12N2OS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 23 mL | O | H2O
product | 6-isopropyl-5-methylpyrimidin-4-ol | 0.25 g, 30% yield | C(C)(C)C1=C(C(=NC=N1)O)C | C8H12N2O
